US04994482
5-[8-(3,4,5-Triphenyl-lH-pyrazol-1-yl)octyl]-2 H-tetrazole
A mixture of 3,4,5-triphenyl-lH-pyrazole-1-nonanenitrile (1.25 g, 2.9 mmol) and tri-n-butyltin azide (1.15 g, 3.5 mmol) was heated with stirring at 140° C. under an atmosphere of nitrogen. After 2.5 hours, the mixture was cooled to room temperature, diluted with ethyl acetate and washed with 0.5 N HCl (3 x) and saturated sodium chloride solution before being dried and concentrated in vacuo. The residual oil was chromatographed on a column of silica gel using first a mixture of ethyl acetate and hexane (1:1) and subsequently methanol/chloroform (1:9) as eluent. The recovered oil was dissolved in CH2Cl2 and stirred with a concentrated aqueous solution of potassium floride. After 24 hours, the layers were separated and the aqueous layer extracted with dichloromethane. The organic extracts were dried over sodium sulfate and concentrated in vacuo to give an oil that solidified. Recrystallization from a mixture of hexane and dichloromethane (2:1) afforded the title compound (1.00 g, 73%); m.p.=158°-160° C. MS(CI): m/e =477 (MH+).

reactant | 3,4,5-triphenyl-lH-pyrazole-1-nonanenitrile | 2.9 mmol, 1.25 g | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCC#N | C30H31N3
reactant | tri-n-butyltin azide | 3.5 mmol, 1.15 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[8-(3,4,5-Triphenyl-lH-pyrazol-1-yl)octyl]-2 H-tetrazole | 1.00 g, 73% | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCC=1N=NNN1 | C30H32N6
